US06482824B1
To a solution of 3-methylbenzenesulphonyl chloride (0.075 mmol) in acetonitrile (1.5 ml) was added a solution of 3,6-dihydro-3,5-dimethyl-6-(4-methoxyphenyl)-2H-1,2-oxazine hydrochloride(0.403 mmol) in chloroform (0.5 ml) followed by poly(4-vinyl)pyridine (53 mg). The mixture was shaken at room temperature for 24 h then added polystyrene (co-divinylbenzene)amino methylated (100 mg) and the mixture shaken at room temperature for a further 24 h. The mixture was then filtered and the resin washed twice with chloroform. The filtrate was evaporated to give 3,6-dihydro-3,5-dimethyl-6-(4-methoxyphenyl)-2-(3-methylbenzenesulphonyl)-2H-1,2-oxazine as an oil. 1H NMR (CDCl3)δ 1.56(3H, d), 2.39(3H, s), 3.82(3H, s) 4.49(1H, m), 5.20(1H, s), 5.69(1H, d), 6.81(2H, d), 7.11(2H, d), 7.34(2H, m), 7.67(2H, d)

reactant | 3-methylbenzenesulphonyl chloride | 0.075 mmol | CC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO2S
reactant | 3,6-dihydro-3,5-dimethyl-6-(4-methoxyphenyl)-2H-1,2-oxazine hydrochloride | 0.403 mmol | Cl.CC1NOC(C(=C1)C)C1=CC=C(C=C1)OC
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
solvent | chloroform | 0.5 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,6-dihydro-3,5-dimethyl-6-(4-methoxyphenyl)-2-(3-methylbenzenesulphonyl)-2H-1,2-oxazine | CC1N(OC(C(=C1)C)C1=CC=C(C=C1)OC)S(=O)(=O)C1=CC(=CC=C1)C | C20H23NO4S
